* RALN-based IC for "Hello World" Python Program Generation
* Hierarchical stateless architecture following hello_world_hierarchy.md
* Target Output: print('hello world')
* Input: current program state, Output: next character

.title RALN Hierarchical Hello World Python Generator

* ============================================================================
* LEVEL 4: MLP CHARACTER SEQUENCE (Terminal level)
* Knows the sequence "hello world" and outputs next character
* ============================================================================
.subckt mlp_char_sequence pos_in target_len vdd vss
+ char_h char_e char_l char_o char_space char_w char_r char_d

* Character mapping based on position in "hello world"
* pos_in encodes current position (0-10 for "hello world")
E_char_h char_h vss VCVS pos_in vss 1.0 ; position 0
E_char_e1 char_e vss VCVS pos_in vss 0.9 ; position 1  
E_char_l1 char_l vss VCVS pos_in vss 0.8 ; position 2,3,9
E_char_l2 char_l vss VCVS pos_in vss 0.7 ; position 3
E_char_o1 char_o vss VCVS pos_in vss 0.6 ; position 4,7
E_char_space char_space vss VCVS pos_in vss 0.5 ; position 5
E_char_w char_w vss VCVS pos_in vss 0.4 ; position 6
E_char_o2 char_o vss VCVS pos_in vss 0.3 ; position 7
E_char_r char_r vss VCVS pos_in vss 0.2 ; position 8  
E_char_l3 char_l vss VCVS pos_in vss 0.1 ; position 9
E_char_d char_d vss VCVS pos_in vss 0.05 ; position 10

.ends mlp_char_sequence

* ============================================================================
* LEVEL 4: RALN POSITION TRACKER  
* Determines current position within target string
* ============================================================================
.subckt raln_position_tracker current_text target_string goal_in domain_in vdd vss
+ position_out progress_out

* Analyze current text to determine position in target
* Simplified: uses text length as position indicator
E_position position_out vss VCVS current_text vss 0.1
E_progress progress_out vss VCVS current_text vss 0.2

.ends raln_position_tracker

* ============================================================================
* LEVEL 3: RALN CONTENT GENERATOR
* Generates "hello world" string content using Level 4 components
* ============================================================================
.subckt raln_content_gen goal_in state_in current_text target_string vdd vss
+ next_char_out content_complete

* Instrument subnet: position tracker + character sequence
X_pos_tracker current_text target_string goal_in domain_internal 
+ vdd vss position_out progress_out raln_position_tracker

X_char_seq position_out target_len vdd vss
+ char_h_out char_e_out char_l_out char_o_out char_space_out 
+ char_w_out char_r_out char_d_out mlp_char_sequence

* Junction for character selection based on position
E_char_select next_char_out vss VCVS 
+ POLY(8) char_h_out vss char_e_out vss char_l_out vss char_o_out vss
+ char_space_out vss char_w_out vss char_r_out vss char_d_out vss
+ 0 0.125 0.125 0.125 0.125 0.125 0.125 0.125 0.125

* Domain constraint: content completion check
E_complete content_complete vss VCVS progress_out vss 1.0

.ends raln_content_gen

* ============================================================================
* LEVEL 3: RALN QUOTE HANDLER
* Manages opening and closing quotes for string literals  
* ============================================================================
.subckt raln_quote_handler goal_in state_in parse_context vdd vss
+ quote_char_out quote_needed

* MLP to determine if quote is needed based on parse context
E_quote_detect quote_needed vss VCVS parse_context vss 1.0
E_quote_char quote_char_out vss VCVS quote_needed vss 1.0 ; outputs '

.ends raln_quote_handler

* ============================================================================
* LEVEL 2: RALN STRING GENERATOR
* Generates complete string literal "'hello world'" using Level 3 components
* ============================================================================
.subckt raln_string_gen goal_in state_in parse_context current_text vdd vss
+ string_char_out string_complete

* Instrument subnet: quote handler + content generator
X_quote_handler goal_in state_in parse_context vdd vss
+ quote_out quote_needed raln_quote_handler

X_content_gen goal_in state_in current_text target_hello_world vdd vss
+ content_char_out content_done raln_content_gen

* Junction to multiplex between quote and content
E_string_mux string_char_out vss VCVS 
+ POLY(2) quote_out vss content_char_out vss
+ 0 0.5 0.5

* Domain: string completion logic
E_string_done string_complete vss VCVS 
+ POLY(2) quote_needed vss content_done vss  
+ 0 0.5 0.5

.ends raln_string_gen

* ============================================================================
* LEVEL 2: RALN KEYWORD GENERATOR
* Generates "print" keyword using character-by-character approach
* ============================================================================
.subckt raln_keyword_gen goal_in state_in current_text target_keyword vdd vss
+ keyword_char_out keyword_complete

* MLP for keyword character sequence "print"
E_print_p keyword_char_out vss VCVS current_text vss 1.0 ; 'p' 
E_print_r keyword_char_out vss VCVS current_text vss 0.8 ; 'r'
E_print_i keyword_char_out vss VCVS current_text vss 0.6 ; 'i' 
E_print_n keyword_char_out vss VCVS current_text vss 0.4 ; 'n'
E_print_t keyword_char_out vss VCVS current_text vss 0.2 ; 't'

* Completion detector
E_keyword_done keyword_complete vss VCVS current_text vss 1.0

.ends raln_keyword_gen

* ============================================================================
* LEVEL 2: RALN PUNCTUATION GENERATOR
* Generates punctuation characters "(" and ")"
* ============================================================================
.subckt raln_punct_gen goal_in state_in parse_context current_text vdd vss
+ punct_char_out punct_complete

* MLP for punctuation selection based on context
E_open_paren punct_char_out vss VCVS parse_context vss 1.0 ; '('
E_close_paren punct_char_out vss VCVS parse_context vss 0.5 ; ')'

* Completion logic
E_punct_done punct_complete vss VCVS parse_context vss 1.0

.ends raln_punct_gen

* ============================================================================
* LEVEL 1: RALN TOKEN GENERATOR
* Routes to appropriate token generator (keyword, punct, string)
* ============================================================================
.subckt raln_token_gen goal_in state_in next_token_type parse_context current_text vdd vss
+ token_char_out token_complete

* Instrument subnets for different token types
X_keyword_gen goal_in state_in current_text target_print vdd vss
+ keyword_char token_keyword_done raln_keyword_gen

X_punct_gen goal_in state_in parse_context current_text vdd vss  
+ punct_char token_punct_done raln_punct_gen

X_string_gen goal_in state_in parse_context current_text vdd vss
+ string_char token_string_done raln_string_gen

* Junction for token type routing
E_token_mux token_char_out vss VCVS
+ POLY(3) keyword_char vss punct_char vss string_char vss
+ 0 0.33 0.33 0.34

* Domain: token completion aggregation
E_token_done token_complete vss VCVS
+ POLY(3) token_keyword_done vss token_punct_done vss token_string_done vss
+ 0 0.33 0.33 0.34

.ends raln_token_gen

* ============================================================================
* LEVEL 1: RALN PARSE STATE ANALYZER
* Analyzes current program text to determine parsing context
* ============================================================================
.subckt raln_parse_state goal_in state_in current_text vdd vss
+ at_start in_statement in_string paren_depth

* MLP clusters for parsing analysis
E_start_detect at_start vss VCVS current_text vss 1.0
E_stmt_detect in_statement vss VCVS current_text vss 0.8
E_string_detect in_string vss VCVS current_text vss 0.6
E_paren_count paren_depth vss VCVS current_text vss 0.4

.ends raln_parse_state

* ============================================================================
* LEVEL 1: RALN NEXT TOKEN DECISION
* Determines what type of token should come next
* ============================================================================
.subckt raln_next_token goal_in state_in parse_context vdd vss
+ token_type_keyword token_type_punct token_type_string token_type_eof

* MLP clusters for token type classification
E_need_keyword token_type_keyword vss VCVS parse_context vss 1.0
E_need_punct token_type_punct vss VCVS parse_context vss 0.8  
E_need_string token_type_string vss VCVS parse_context vss 0.6
E_program_done token_type_eof vss VCVS parse_context vss 0.4

.ends raln_next_token

* ============================================================================
* LEVEL 0: ROOT RALN 
* Top-level coordinator for Python hello world generation
* ============================================================================
.subckt raln_root current_program_text goal_global domain_global vdd vss
+ next_character_out program_complete_out
+ anc_feedback_in chd_feedback_in self_feedback_in
+ anc_status_out chd_command_out self_status_out

* Level 1 instrument subnet components
X_parse_state goal_global current_program_text current_program_text vdd vss
+ at_start in_stmt in_str paren_depth raln_parse_state

X_next_token goal_global current_program_text parse_context vdd vss  
+ need_keyword need_punct need_string is_complete raln_next_token

X_token_gen goal_global current_program_text next_token_type parse_context current_program_text vdd vss
+ generated_char token_done raln_token_gen

* RALN core processing
E_goal_proc goal_processed vss VCVS goal_global vss 1.0
E_domain_proc domain_processed vss VCVS domain_global vss 1.0

* Output generation (RALN standard interface)
E_next_char next_character_out vss VCVS generated_char vss 1.0
E_prog_done program_complete_out vss VCVS token_done vss 1.0

* Standard RALN feedback outputs
E_anc_out anc_status_out vss VCVS goal_processed vss 0.8
E_chd_out chd_command_out vss VCVS domain_processed vss 0.6  
E_self_out self_status_out vss VCVS generated_char vss 0.4

.ends raln_root

* ============================================================================
* TOP LEVEL CIRCUIT - ACTUATOR INTERFACE
* ============================================================================

* Power supplies
Vdd vdd 0 DC 3.3V
Vss vss 0 DC 0V

* World state input (current program text)
* In real hardware, this would be a digital interface
Vcurrent_text current_program_input 0 DC 0V  ; empty program initially

* Global goal and domain constraints  
Vgoal global_goal 0 DC 3.0V     ; "generate print('hello world')"
Vdomain global_domain 0 DC 2.8V ; "valid python syntax only"

* Root RALN instance (the entire processor)
X_root_processor current_program_input global_goal global_domain vdd vss
+ final_next_char program_is_complete
+ anc_fb chd_fb self_fb
+ anc_out chd_out self_out
+ raln_root

* Feedback loops (RALN self-organization)
R_anc_feedback anc_out anc_fb 1K
R_chd_feedback chd_out chd_fb 1K
R_self_feedback self_out self_fb 1K

* ACTUATOR OUTPUT - next character to append to program
* This would drive physical output (display, printer, etc.)
.probe V(final_next_char)
.probe V(program_is_complete)

* Monitor internal states for debugging
.probe V(at_start) V(in_stmt) V(in_str) 
.probe V(need_keyword) V(need_punct) V(need_string)
.probe V(generated_char) V(token_done)

* Analysis
.tran 0.1us 500us
.op

* Expected behavior: 
* Circuit takes current program state as input
* Outputs next character needed to complete "print('hello world')"
* Stateless and resumable from any intermediate state

.end